US07517899B2
(1S,2R)-3-(methylamino)-1-(3-methyl-1H-indol-1-yl)-1-phenylpropan-2-ol hydrochloride
In an analogous manner to EXAMPLE 5, (1S,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol hydrochloride was prepared from (2S,3S)-toluene-4-sulfonic acid 3-(3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester and methylamine (2N solution in methanol) as a white solid. [□]D25/MeOH=+116; CD/MeOH=(−); MS (ESI) m/z 295 ([M+H]+); HRMS: calcd for C19H22N20+H+, 295.18049; found (ESI, [M+H]+), 295.1816.

reactant | (1S,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol hydrochloride | Cl.N1(C=CC2=CC=CC=C12)[C@H]([C@@H](CNC)O)C1=CC=CC=C1
reactant | (2S,3S)-toluene-4-sulfonic acid 3-(3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester | CC1=CN(C2=CC=CC=C12)[C@H]([C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC=CC=C1 | C25H25NO4S
reactant | methylamine | 2N | CN | CH5N
solvent | MeOH | CO | CH4O
product | (1S,2R)-3-(methylamino)-1-(3-methyl-1H-indol-1-yl)-1-phenylpropan-2-ol hydrochloride | Cl.CNC[C@H]([C@H](C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C)O | InChI=1S/C19H22N2O.ClH/c1-14-13-21(17-11-7-6-10-16(14)17)19(18(22)12-20-2)15-8-4-3-5-9-15;/h3-11,13,18-20,22H,12H2,1-2H3;1H/t18-,19+;/m1./s1
